US06593467B2
B. 5′-deoxy-5-fluorouridine
To a suspension of 20 g (0.053 m) of 5′-deoxy-5′-iodo-5-fluoro uridine in a mixture of 60 ml of ethanol and 40 ml of isopropanol, 15.2 ml (0.108 m) of diisopropylamine are added, then 3 g of 5% Pd/C are added thereinto and the mixture is hydrogenated at about 1-bar pressure for 14 hours. After removal of the catalyst by filtration, the solution is concentrated under vacuum until a solid residue is obtained, which is crystallized with a mixture ethanol/isopropanol=60/40 v/v; after 8 hours the product is filtered, washed with said mixture and dried at 45° C. for 15 hours. Thus, 11,6 g (yield—89% of the theoretical) of 5′-deoxy-5-fluorouridine M.p.=187÷188° C., puritya (HPLC)=99,75% and [α]D=+18.2° (c=0.42, H2O).

reactant | 5′-deoxy-5′-iodo-5-fluoro uridine | 20 g | IC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C9H10FIN2O5
reactant | diisopropylamine | 15.2 ml | C(C)(C)NC(C)C | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 5′-deoxy-5-fluorouridine | yield—89% | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)=O | C9H11FN2O5
